* source P2
R_RB3         VIN_2 N00776  480k  
R_RB5         N00776 VIN_3  137.839k  
C_C4         VIN_3 VOUT_2  1u  
R_RB6         0 VIN_3  360k  
R_RE3         0 N00850  2.5k  
C_C3         VIN_2 N10830  1u  
R_RC3         N00803 N00776  1k  
R_RL         VOUT_3 0  1.10996k  
V_Vi         N10830 0 DC 0Vdc AC 1Vac 
Q_Q2         VOUT_2 VIN_2 N09502 Q2N4355
C_C5         N00850 VOUT_3  1000U  
V_VCC         N00776 0 10Vdc
R_RE2         N00776 N09502  0.75k  
R_RB4         0 VIN_2  160k  
Q_Q3         N00803 VIN_3 N00850 BC368 
R_RC2         0 VOUT_2  0.241k  
