* source P4
Q_Q1         N00618 N07511 N00801 BC368 
R_RC         N00618 N00892  0.471k  
R_RE         0 N00801  1k  
V_Vs         N00877 0 DC 0Vdc AC 1Vac 
R_RB1         VIN N00892  400k  
R_RB         VIN N07511  0.4k  
R_RB2         0 VIN  200k  
R_RL         0 VOUT  0.1k  
R_Rs         N00877 N00850  100  
C_C1         N00850 VIN  1000U  
V_VCC         N00892 0 10Vdc
C_C2         N00618 VOUT  1000U  
C_C3         N00801 0  1000U  
